US07854999B2
1) Synthesis of 8,9-dihydro-4H-cyclopenta[def]phenanthrene
4H-cyclopenta[def]phenanthrene (4.75 g, 25 mmol) was put into a Par reactor, and EtOH (200 ml) was added thereto. 5% Pd/C (3.99 g) was added to the reaction solution, and the resultant solution was incubated under a hydrogen pressure of 40 psi for 24 hours. After the reaction was terminated, the reaction solution was filtered, and the filtrate was concentrated under a reduced pressure to give a white product (4.32 g, 90%).

reactant | 4H-cyclopenta[def]phenanthrene | 25 mmol, 4.75 g | C1=CC=C2C3=C4C(=CC=CC4=CC=C13)C2 | C15H10
catalyst | Pd/C | 3.99 g | [Pd] | Pd
solvent | EtOH | 200 ml | CCO | C2H6O
product | 8,9-dihydro-4H-cyclopenta[def]phenanthrene | 4.32 g, 90% | C1=CC=C2C=3C=4C(=CC=CC4CCC13)C2 | C15H12
